US07820672B2
c) [6-(4-Methyl-piperazin-1-yl)-3-trifluoromethyl-pyridin-2-yl]-acetic acid ethyl ester
(6-Chloro-3-trifluoromethyl-pyridin-2-yl)-acetic acid ethyl ester (700 mg, 2.62 mmol), palladium(II) acetate (47 mg, 0.21 mmol) and rac-2,2′-Bis-diphenylphosphanyl-[1,1′]binaphthalene (65 mg, 0.10 mmol) are added to sodium tert-butoxide, which has been dried for 15 minutes at 60° C. under high vacuum (277 mg, 2.88 mmol). This mixture is suspended in dioxane (9 ml, degassed three times under high vacuum and purged with argon), and N-methyl piperazine (288 mg, 2.88 mmol) is added. The flask containing this suspension is immersed in a pre-heated oil bath (85° C.). After 15 minutes at 85° C., TLC analysis indicates complete consumption of starting materials. The reaction mixture is cooled to RT and poured under stirring into a mixture of conc. aqueous NH4Cl (100 ml) and EtOAc (100 ml). The aqueous layer is extracted with EtOAc. The organic layer is then washed once with conc. aqueous NH4Cl, dried over Na2SO4 and concentrated. Purification by FCC (CH2Cl2/MeOH 100:0 to 98:2 to 97:3 to 96:4 to 95:5 to 8:2) yields the title compound. 1H NMR (CDCl3, 400 MHz) δ 1.30 (t, J=7.8 Hz, 3H), 2.35 (s, 3H), 2.50-2.57 (m, 4H), 3.32-3.39 (m, 4H), 3.76 (s, 2H), 4.20 (q, J=7.8 Hz, 2H), 6.90 (d, J=8.9 Hz, 1H), 7.79 (d, J=8.9 Hz, 1H); ES-MS: 332.5 [M+H]+.

reactant | (6-Chloro-3-trifluoromethyl-pyridin-2-yl)-acetic acid ethyl ester | 2.62 mmol, 700 mg | C(C)OC(CC1=NC(=CC=C1C(F)(F)F)Cl)=O | C10H9ClF3NO2
reactant | rac-2,2′-Bis-diphenylphosphanyl-[1,1′]binaphthalene | 0.10 mmol, 65 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
reactant | N-methyl piperazine | 2.88 mmol, 288 mg | CN1CCNCC1 | C5H12N2
catalyst | palladium(II) acetate | 0.21 mmol, 47 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [6-(4-Methyl-piperazin-1-yl)-3-trifluoromethyl-pyridin-2-yl]-acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1C(F)(F)F)N1CCN(CC1)C)=O | C15H20F3N3O2
